US05294734
6.1 g (17.4 mmol) of 7-acetoxy-4-bromomethyl-2-formylaminohept-3-enoic acid ethyl ester and 19.1 ml (69.6 mmol) of triisopropyl phosphite (90%) are heated to 80° C. and stirred under a pressure of approximately 130 mbar for 18 hours. The excess triisopropyl phosphite is distilled off and the residue is purified on silica gel with ethyl acetate. 7-acetoxy-4-diisopropylphosphonomethyl-2-formylamino-hept-3-enoic acid ethyl ester is obtained in the form of a yellow oil.

reactant | 7-acetoxy-4-bromomethyl-2-formylaminohept-3-enoic acid ethyl ester | 17.4 mmol, 6.1 g | C(C)OC(C(C=C(CCCOC(C)=O)CBr)NC=O)=O | C13H20BrNO5
reactant | triisopropyl phosphite | 69.6 mmol, 19.1 ml | P(OC(C)C)(OC(C)C)OC(C)C | C9H21O3P
product | 7-acetoxy-4-diisopropylphosphonomethyl-2-formylamino-hept-3-enoic acid ethyl ester | C(C)OC(C(C=C(CCCOC(C)=O)CP(=O)(OC(C)C)OC(C)C)NC=O)=O | C19H34NO8P
